2146-11-19 07:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   OR last night to correct SBO due to ovarian mets
 increasingly
   hypoxemic and hypotensive during case. Loop ileostomy performed.
   Received blood products in OR after clinical decline had begun.
   Post-op refractory hypoxemia
 paralyzed, proned
   24 Hour Events:
 INVASIVE VENTILATION - START [**2146-11-18**] 10:00 PM
 EKG - At [**2146-11-18**] 10:31 PM
 MULTI LUMEN - START [**2146-11-18**] 10:42 PM
 ARTERIAL LINE - START [**2146-11-18**] 10:43 PM
 TRANSTHORACIC ECHO - At [**2146-11-18**] 11:31 PM
   Overnight
 given antibiotics,  3 pressors, bicarb, albumin, IVF
   PMHx:
   Ovarian cancer first identified in [**2141**]
   Allergies:
   Latex
   Rash;
   Cefazolin
   Rash;
   Red Dye
   Rash;
   Cephalosporins
   Rash;
   Nickel
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-11-18**] 11:25 PM
   Metronidazole - [**2146-11-19**] 02:23 AM
   Ciprofloxacin - [**2146-11-19**] 03:26 AM
   Meropenem - [**2146-11-19**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Cisatracurium - 0.05 mg/Kg/hour
   Heparin Sodium - 800 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2146-11-19**] 03:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-19**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 123 (122 - 148) bpm
   BP: 92/68(78) {67/55(60) - 118/74(86)} mmHg
   RR: 30 (5 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (10 - 12)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
                                Total In:
                                                                    860 mL
                                                                  3,565 mL
   PO:
                                TF:
   IVF:
                                                                    300 mL
                                                                  2,915 mL
   Blood products:
                                                                    560 mL
                                                                    500 mL
   Total out:
                                                                      0 mL
                                                                     20 mL
   Urine:
   20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    860 mL
                                                                  3,545 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 550) mL
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.29/36/92      7.33/35/82
   Ve: 8.8 L/min
   PaO2 / FiO2: 92
   Physical Examination
   Intubated, sedated, proned
   Lungs
 scattered crackles, good air movement
   Hrt- unable to examine
   Abd- unable to examine
   Extrem- mild anasarca
   Labs / Radiology
   13.3 g/dL
   497 K/uL
   140 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.8 mEq/L
   20 mg/dL
   110 mEq/L
   139 mEq/L
   40.9 %
   7.3 K/uL
        [image002.jpg]
                            [**2146-11-18**]  11:07 PM
                            [**2146-11-19**]  12:38 AM
                            [**2146-11-19**]  01:11 AM
                            [**2146-11-19**]  01:22 AM
                            [**2146-11-19**]  01:23 AM
                            [**2146-11-19**]  02:10 AM
                            [**2146-11-19**]  03:27 AM
                            [**2146-11-19**]  04:23 AM
                            [**2146-11-19**]  04:44 AM
                            [**2146-11-19**]  05:59 AM
   WBC
   8.6
   7.3
   Hct
   43.0
   43
   40.9
   Plt
   485
   497
   Cr
   1.2
   TropT
   <0.01
   TCO2
   15
   15
   14
   16
   17
   19
   18
   Glucose
   140
   Other labs: PT / PTT / INR:19.8/150.0/1.8, CK / CKMB /
   Troponin-T:125/2/<0.01, ALT / AST:97/187, Alk Phos / T Bili:48/0.4,
   Fibrinogen:215 mg/dL, Lactic Acid:4.0 mmol/L, Albumin:2.1 g/dL, LDH:188
   IU/L, Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:6.0 mg/dL
   CXR new bilateral widespread infiltrates compared to pre-op film, ETT
   and CVL OK
   LENIs - slow flow on left, no obvious clot
   Echo
 final read pending
   Assessment and Plan
   Resp failure, shock, refractory hypoxemia
 new infiltrates compatible
   ARDS
 suspect noninfectious causes
 aspiration and some sort of
   vascualr leak from tumor manipulation seem most likely. Will continue
   abx, keep prone, continue solumedrol at 125 q6, continue pressors,
   target pH in high 7.2
s and PaO2 > 70
   Metastatic ovarian cancer, post-op ileostomy, bowel perf
 surgery and
   gyn involved, will re-examine abdomen once supine
   ARF
 likely due to ATN in setting of hypotension/hypoxemia
 continue
   to follow closely, consider renal u/s to r/o obstruction as comlication
   of surgery, use IVF if oliguria worsens
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-11-18**] 10:42 PM
   Arterial Line - [**2146-11-18**] 10:43 PM
   22 Gauge - [**2146-11-18**] 10:43 PM
   Prophylaxis:
   DVT:   sc hep
   Stress ulcer:   H2 block
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :   ICU
   Total time spent:   62

2146-11-20 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-11-19**] 04:03 PM
 ARTERIAL LINE - START [**2146-11-19**] 06:00 PM
 FEVER - 102.4
F - [**2146-11-19**] 08:00 PM
   Urine output improved
   O2 needs somewhat improved
   BP stable
   Allergies:
   Latex
   Rash;
   Cefazolin
   Rash;
   Red Dye
   Rash;
   Cephalosporins
   Rash;
   Nickel
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-11-19**] 09:11 PM
   Ciprofloxacin - [**2146-11-19**] 11:11 PM
   Meropenem - [**2146-11-20**] 12:36 AM
   Metronidazole - [**2146-11-20**] 12:36 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-11-19**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2146-11-20**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-20**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.4
C (101.1
   HR: 113 (107 - 118) bpm
   BP: 104/67(81) {86/60(71) - 115/77(89)} mmHg
   RR: 30 (28 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76 kg (admission): 63 kg
   CVP: 10 (9 - 158)mmHg
   Bladder pressure: 12 (12 - 13) mmHg
   Total In:
                                                                  6,817 mL
                                                                  1,541 mL
   PO:
   TF:
   IVF:
                                                                  5,887 mL
                                                                  1,511 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,729 mL
                                                                  1,365 mL
   Urine:
                                                                  2,029 mL
                                                                    715 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,088 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 351) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.37/33/99    7.37/33/104
   Ve: 12 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Intubated, sedated, paralyzed
   Lungs
 clear, good air movement
   Hrt- unable to examine
   Abd- surgical wound, ostomy
   Extrem- mild anasarca
   Labs / Radiology
   12.8 g/dL
   315 K/uL
   197 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.4 mEq/L
   20 mg/dL
   102 mEq/L
   133 mEq/L
   38.2 %
   31.3 K/uL
        [image002.jpg]
                            [**2146-11-19**]  07:52 AM
                            [**2146-11-19**]  08:34 AM
                            [**2146-11-19**]  11:47 AM
                            [**2146-11-19**]  11:55 AM
                            [**2146-11-19**]  03:21 PM
                            [**2146-11-19**]  04:21 PM
                            [**2146-11-19**]  09:10 PM
                            [**2146-11-19**]  10:38 PM
                            [**2146-11-20**]  03:14 AM
                            [**2146-11-20**]  03:26 AM
   WBC
   11.5
   31.3
   Hct
   35.6
   33.3
   39.0
   38.2
   Plt
   407
   315
   Cr
   1.2
   1.3
   1.2
   TropT
   <0.01
   TCO2
   19
   21
   20
   20
   20
   20
   Glucose
   166
   185
   170
   210
   197
   Other labs: PT / PTT / INR:21.9/43.8/2.1, CK / CKMB /
   Troponin-T:190/2/<0.01, ALT / AST:330/400, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:70.0 %, Band:18.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:0.0 %, Fibrinogen:266 mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.4
   g/dL, LDH:506 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Resp failure, shock, refractory hypoxemia
 new infiltrates compatible
   ARDS
 suspect noninfectious causes
 aspiration and some sort of
   vascular leak from tumor manipulation seem most likely. Will continue
   abx, keep supine for now, decrease solumedrol, continue pressors,
   target pH in high 7.2
s and PaO2 > 70
   Fever
 abdomen and lungs are likely source, already on broad
   antibiotics, follow micro eval
   Metastatic ovarian cancer, post-op ileostomy, bowel perf
 surgery and
   gyn involved, wounds and ostomy being followed closely
   ARF
 likely due to ATN in setting of hypotension/hypoxemia
 continue
   to follow closely, renal u/s pending, creatinine stable and urine
   output good
   Rising LFTs
 suspect ischemic in nature, cont to follow
   DM
 continue insulin
   Family meeting
 met with husband, cousin, sister, RN, [**Name2 (NI) **] and
   gyn service
 we had a 60 minute conversation about the clinical
   scenario and goals of care. It was decided to transition care to
   comfort measures only. The family will decide about whether to extubate
   versus discontinue pressors alone.
   ICU Care
   Nutrition: npo
   Glycemic Control:  increase insulin
   Lines:
   Multi Lumen - [**2146-11-18**] 10:42 PM
   22 Gauge - [**2146-11-18**] 10:43 PM
   Arterial Line - [**2146-11-19**] 06:00 PM
   Prophylaxis:
   DVT:  boots, sc hep
   Stress ulcer:   ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :   icu
   Total time spent: 75

2146-11-20 08:09:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-11-19**] 04:03 PM
 ARTERIAL LINE - START [**2146-11-19**] 06:00 PM
 FEVER - 102.4
F - [**2146-11-19**] 08:00 PM (Pan-Cx)
   -A line got sutured in, later stopped [**Location (un) **] so was pulled and new
   A-line was placed (pt repositioned from prone to supine)
   -HCT continued to be stable (39.0) so restarted SC heparin ppx
   -pt continues to be tachycardic and hypotensive on 3 pressors, had to
   increase neo
   -increased nimbex as pt was not completely paralyzed and was
   dysynchronous w/ vent, this improved oxygenation from p02 79 to 86
   - ABG 7.38/33/86/20 on 80% FiO2
   -This AM, lactate 4.5, INR 2.1, transaminitis, sent DIC labs and pan
   cultured due to spiking temps o/n
   Allergies:
   Latex--Rash;
   Cefazolin--Rash;
   Red Dye--Rash;
   Cephalosporins--Rash;
   Nickel--Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-11-19**] 09:11 PM
   Ciprofloxacin - [**2146-11-19**] 11:11 PM
   Meropenem - [**2146-11-20**] 12:36 AM
   Metronidazole - [**2146-11-20**] 12:36 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine [**2146-11-19**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2146-11-20**] 12:30 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-20**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.4
C (101.1
   HR: 113 (107 - 125) bpm
   BP: 104/67(81) {86/60(71) - 115/77(89)} mmHg
   RR: 30 (28 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76 kg (admission): 63 kg
    CVP: 10 (9 - 158)mmHg
   Bladder pressure: 12 (12 - 13) mmHg
   Total In:
                                                                  6,817 mL
                                                                  1,519 mL
   PO:
   TF:
   IVF:
                                                                  5,887 mL
                                                                  1,489 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,729 mL
                                                                  1,365 mL
   Urine:
                                                                  2,029 mL
                                                                    715 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,088 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 351) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.37/33/99.[**Numeric Identifier 126**]/19/-4
   Ve: 12 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Gen: Intubated, sedated, supine, not responsive to voice or painful
   stimuli
   CV: quiet heart sounds
   Lungs
 scattered crackles, good air movement
   Abd- hard, distended, absent bowel sounds, +ostomy in place w/ some
   necrotic tissue on periphery
   Extrem- mild anasarca, poor distal pulses (barely palpable, +
   dopplerable), cool extremities
   Labs / Radiology
   315 K/uL
   12.8 g/dL
   197 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.4 mEq/L
   20 mg/dL
   102 mEq/L
   133 mEq/L
   38.2 %
   31.3 K/uL
        [image002.jpg]
                            [**2146-11-19**]  07:52 AM
                            [**2146-11-19**]  08:34 AM
                            [**2146-11-19**]  11:47 AM
                            [**2146-11-19**]  11:55 AM
                            [**2146-11-19**]  03:21 PM
                            [**2146-11-19**]  04:21 PM
                            [**2146-11-19**]  09:10 PM
                            [**2146-11-19**]  10:38 PM
                            [**2146-11-20**]  03:14 AM
                            [**2146-11-20**]  03:26 AM
   WBC
   11.5
   31.3
   Hct
   35.6
   33.3
   39.0
   38.2
   Plt
   407
   315
   Cr
   1.2
   1.3
   1.2
   TropT
   <0.01
   TCO2
   19
   21
   20
   20
   20
   20
   Glucose
   166
   185
   170
   210
   197
   Other labs: PT / PTT / INR:21.9/43.8/2.1, CK / CKMB /
   Troponin-T:190/2/<0.01, ALT / AST:330/400, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:70.0 %, Band:18.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:0.0 %, Fibrinogen:266 mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.4
   g/dL, LDH:506 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   55 yo F w/ metastatic ovarian CA s/p surgical resection who presents to
   [**Hospital Unit Name 1**] w/ respiratory failure, shock, refractory hypoxemia w/ new
   infiltrates compatible ARDS likely due to noninfectious etiogies such
   as vascular leak/ cytokine release from tumour manipulation.
   1. ARDS- intubated on ARDS NET protocol. CXR much improved from
   yesterday. But stil w/ B/L fluffy infiltrates as compared to relatively
   clear pre-op CXR. ABGs improving in terms of oxygenation with
   paralysis.
   -- continue broad spectrum abx
   -- decrease solumedrol at 125mg q6h
 80mg q6h
   -- keep supine
   --  continue 3 pressors (levo, neo, vaso) target pH in high 7.3
s and
   PaO2 > 70
   -- attempt to wean pressors as tolerated
   -- continue paralysis w/ nimbex
   2. Leukocytosis- WBC bump to 31.3 from 11.5 which could represent
   inflammation from cytokine release ([**Last Name (LF) 11698**], [**First Name3 (LF) **]-1, IL-6) from tumour lysis
   or could represent new area of infection
   -- pan culture stool, urine, blood, sputum
   -- d/c gyn/onc
   3. Metastatic ovarian cancer, post-op ileostomy, bowel perf
   -- f/u surgery recs
   -- f/u gyn recs
   -- family mtg w/ pt
s husband [**Name (NI) 653**], cousin, gyn onc team
 family seems
   to be moving t/w CMO ?
   -- t/b w/ palliative care?
   4. Acute Renal Insufficient
 likely due to ATN in setting of
   hypotension/hypoxemia during surgery, so fluids unlikely to alleviate.
   Renal U/S shows no evidence of ureteral obstruction or surgical
   complication. UOP has been excellent.
   --  continue to follow Cr closley, U lytes
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-11-18**] 10:42 PM
   22 Gauge - [**2146-11-18**] 10:43 PM
   Arterial Line - [**2146-11-19**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: [**Hospital Unit Name 1**]